USRE028939
A mixture of 5.0 g. of N,N-diethyl-2-bromo-5-trifluoromethylbenzamidine and 2.0 ml. of 95% hydrazine are refluxed in butanol for 12 hours. Evaporating the solution, treating the residue with ether and filtering gives 3-diethylamino-5-trifluoromethylindazole.

reactant | N,N-diethyl-2-bromo-5-trifluoromethylbenzamidine | C(C)N(C(C1=C(C=CC(=C1)C(F)(F)F)Br)=N)CC | C12H14BrF3N2
reactant | hydrazine | NN | H4N2
solvent | butanol | C(CCC)O | C4H10O
product | 3-diethylamino-5-trifluoromethylindazole | C(C)N(C1=NNC2=CC=C(C=C12)C(F)(F)F)CC | C12H14F3N3
